US06884801B1
2-Bromo-3-nitrotoluene (3.35 g, 15.5 mmol) and 2-(tributylstannyl)-thiophene (5.7 g, 15.3 mmol, 1.0 eq) were coupled as in Example 75 to give 2.08 g of 2-(2-methyl-6-nitrophenyl)thiophene, which was reduced under conditions similar to Example 64 to give 1.4 g of 3-methyl-2-(2-thienyl)aniline.

reactant | 2-Bromo-3-nitrotoluene | 15.5 mmol, 3.35 g | BrC1=C(C=CC=C1[N+](=O)[O-])C | C7H6BrNO2
reactant | 2-(tributylstannyl)-thiophene | 15.3 mmol, 5.7 g, 1.0 eq | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
product | 2-(2-methyl-6-nitrophenyl)thiophene | 2.08 g | CC1=C(C(=CC=C1)[N+](=O)[O-])C=1SC=CC1 | C11H9NO2S
